US08802679B2
To a mixture of 2-(piperidin-1-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (14 mg), tert-butyl {2-[(3-bromobenzyl)(methyl)amino]-2-oxoethyl}carbamate (9 mg), and DMF (0.2 ml) were added tetrakis(triphenylphosphine)palladium (3 mg), sodium carbonate (5 mg), and water (0.1 ml), followed by stirring at 60° C. overnight. After cooling to room temperature, to the reaction mixture was added CHCl3 (2 ml), and the reaction mixture was filtered in a column preconditioned by the addition of 0.8 ml of water to a diatomaceous earth column (manufactured by Varian Inc., ChemElute 1 ml). The obtained filtrate was concentrated, and then to the residue were added MeOH (0.5 ml) and a 4 M hydrogen chloride/EtOAc solution (0.5 ml), followed by leaving to stand for 30 minutes. Thereafter, the reaction mixture was concentrated and the compound was purified by preparative liquid chromatography (MeOH/0.1% aqueous formic acid solution) to obtain N-methyl-N-{3-[2-(piperidin-1-yl)pyrimidin-5-yl]benzyl}glycinamide (3.8 mg).

reactant | 2-(piperidin-1-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 14 mg | N1(CCCCC1)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C15H24BN3O2
reactant | tert-butyl {2-[(3-bromobenzyl)(methyl)amino]-2-oxoethyl}carbamate | 9 mg | BrC=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C15H21BrN2O3
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 5 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 0.1 ml | O | H2O
product | N-methyl-N-{3-[2-(piperidin-1-yl)pyrimidin-5-yl]benzyl}glycinamide | 3.8 mg | CN(C(CN)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCCCC1 | C19H25N5O
